US07872036B2
A mixture of 4.1 g of 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine, 2.3 g of trifluoroacetaldehyde ethyl hemiacetal, 0.1 g of p-toluenesulfonic acid monohydrate and 50 ml of ethanol was refluxed with heating for 6 hours. The obtained reaction mixture was concentrated under reduced pressure, water was added, and the mixture was extracted with toluene. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 3.6 g of trifluoroacetaldehyde {2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}hydrazone.

reactant | 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine | 4.1 g | ClC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN | C9H10ClF3N2S
reactant | trifluoroacetaldehyde ethyl hemiacetal | 2.3 g | C(C)OC(C(F)(F)F)O | C4H7F3O2
catalyst | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | trifluoroacetaldehyde {2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}hydrazone | 3.6 g | ClC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN=CC(F)(F)F | C11H9ClF6N2S
